US05965679
(a) Preparation of 4,4'-Dibromobenzoin
A solution of 4-bromobenzaldehyde (25.0 g, 0.135 mol), 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazolium bromide (1.70 g, 0.0068 mol) and triethylamine (4.10 g, 0.0405 mol) in ethanol (125 mL) is stirred at room temperature for 60 hours. The reaction mixture is concentrated to dryness, then taken up in CH2Cl2 (150 mL), washed with 1 M HCl and saturated aqueous NaHCO3 and dried (Na2SO4), then concentrated, giving 25.2 g (100 percent) of a viscous yellow oil which solidifies upon standing at room temperature. 1H NMR (CDCl3) δ 7.73 (d, J=8.5 Hz, 2H), δ7.52 (d, J=8.5 Hz, 2H), 7.44 (d, J=8.2 Hz, 2H), 7.17 (d, J=8.2 Hz, 2H) 13C NMR (CDCl3) δ 197.33, 137.56, 132.33, 132.13, 131.90, 130.43, 129.46, 129.31, 122.93, 75.68.

reactant | 4-bromobenzaldehyde | 0.135 mol, 25.0 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | triethylamine | 0.0405 mol, 4.10 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 125 mL | C(C)O | C2H6O
catalyst | 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazolium bromide | 0.0068 mol, 1.70 g | [Br-].C(C)[N+]1=CSC(=C1C)CCO
product | 4,4'-Dibromobenzoin | 25.2 g, 100 percent | BrC1=CC=C(C=C1)C(=O)C(O)C1=CC=C(C=C1)Br | C14H10Br2O2
